US07345180B2
(S)-3-(2-Chloroacetyl)thiazolidine-4carbonitrile
In a similar procedure as employed in the Intermediate Example 1, the thiazolidine-4-carboxylic acid amide (102 mg) obtained above was reacted with chloroacetyl chloride (105 mg) and then subjected to dehydration reaction to give the title compound (87 mg, Y.:59%).

reactant | thiazolidine-4-carboxylic acid amide | 102 mg | S1CNC(C1)C(=O)N | C4H8N2OS
reactant | chloroacetyl chloride | 105 mg | ClCC(=O)Cl | C2H2Cl2O
product | (S)-3-(2-Chloroacetyl)thiazolidine-4carbonitrile | 87 mg, 59% | ClCC(=O)N1CSC[C@@H]1C#N | C6H7ClN2OS
